### PR TITLE
Add Erdős Problem 292 (largest denominators of Egyptian fractions summing to 1), link the formal proof

### LINKED ISSUE #6301: Erdős Problem 292
### What is the Erdős problem?

https://www.erdosproblems.com/292

Let $A$ be the set of $n\in \mathbb{N}$ such that there exist $1\leq m_1<\cdots <m_k=n$ with $\sum\tfrac{1}{m_i}=1$. Explore $A$. In particular, does $A$ have density $1$?

Status: proved (Martin: yes, and the complement has counting function $\asymp x \log\log x / \log x$). A formal proof exists in plby/lean-proofs (`Erdos292.erdos_292`, Codex and GPT-5.6 Sol), building on Bloom's unit-fractions development.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6301.

### What changed
Adds `FormalConjectures/ErdosProblems/292.lean` with the set `A` of largest denominators of Egyptian fraction representations of `1` and:
- `erdos_292` (`research solved`, `answer(True)`): `A` has natural density `1` (`Set.HasDensity`; Martin [Ma00]). Linked to plby/lean-proofs `Erdos292.erdos_292` (Codex and GPT-5.6 Sol; 10 files on top of the unit-fractions development).
- Variants: Martin's asymptotic for the complement, closure under multiplication (Straus), absence of prime powers, and van Doorn's observation `n ∈ A → 2n ∈ A`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos292.erdos_292` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby's `has_density` is stated via limsup/liminf of the same partial densities; its `tendsto` lemma gives `Set.HasDensity` directly):

<details>
<summary>Bridge</summary>

```lean
open Filter

namespace Bridge292

lemma A_eq : Erdos292.A = Erdos292Plby.largestDenominators := by
  ext n
  simp only [Erdos292.A, Erdos292Plby.largestDenominators, Erdos292Plby.IsLargestDenominator,
    Set.mem_ofPred_eq, UnitFractions.rec_sum]

/-- plby's partial density is FormalConjectures' `partialDensity`. -/
lemma partial_density_eq (S : Set ℕ) (N : ℕ) :
    UnitFractions.partial_density S N = S.partialDensity Set.univ N := by
  classical
  unfold UnitFractions.partial_density Set.partialDensity
  congr 2
  · rw [← Set.ncard_coe_finset]
    congr 1
    ext n
    simp [Set.mem_Iio, and_comm]
  · simp [Set.ncard_eq_toFinset_card']

theorem erdos_292_bridge : type_of% Erdos292.erdos_292 := by
  show True ↔ _
  simp only [true_iff]
  rw [A_eq, Set.HasDensity]
  have := Erdos292Plby.tendsto_partial_density_largestDenominators
  refine this.congr fun N => ?_
  exact partial_density_eq _ N

end Bridge292
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«292»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/292.lean [hunk 1]
```diff
@@ -0,0 +1,85 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/292.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
